US05668136
A tetrahydrofuran solution of 3.27 g of 3-methyl-2-nitrocinnamoyl chloride was dropped into a tetrahydrofuran solution of 3.41 g of o-phenylenediamine. The obtained mixture was stirred at room temperature for one hour to complete a reaction. Thereafter, the obtained solution was concentrated and extracted with ethyl acetate. The residue was heated in acetic acid at 100° C. for 2 hours to give 3.67 g of 3-[2-(1H-benzimidazol-2-yl)vinyl]-2-nitrotoluene.

reactant | 3-methyl-2-nitrocinnamoyl chloride | 3.27 g | CC=1C(=C(C=CC(=O)Cl)C=CC1)[N+](=O)[O-] | C10H8ClNO3
reactant | o-phenylenediamine | 3.41 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-(1H-benzimidazol-2-yl)vinyl]-2-nitrotoluene | 3.67 g | N1C(=NC2=C1C=CC=C2)C=CC=2C(=C(C=CC2)C)[N+](=O)[O-] | C16H13N3O2
